US07153873B2
655 mg (6.1 mmol) 5-methyl-2-aminopyridin were placed in 12 ml methanol, and 874 mg (0.75 ml; 9.1 mmol) furan-2-carbaldehyde, 768 mg (0.86 ml; 7.0 mmol) cyclohexylisonitrile and 0.59 ml aqueous perchloric acid (20 m %) were then added and stirred at ambient temperature for 22 hours. 50 ml water and 40 ml DCM were added for processing purposes, stirred for 10 minutes, and the phases then separated. The aqueous phase was additionally extracted three times with 20 ml DCM in each case and the combined organic phases then shaken briefly with 50 ml saturated sodium chloride solution, separated off, dried over magnesium sulfate, filtered and concentrated under vacuum. The intermediate product obtained (1.83 g; 6.2 mmol) was dissolved in 10 ml DCM, and four equivalents acetyl chloride (24.8 mmol; 1.8 ml) were added dropwise while stirring at 20° C. and were stirred for a further four hours. The reaction mixture was then concentrated under vacuum and dried in an oil pump vacuum. The untreated product (about 2 g) was dissolved in 15.5 ml 2-butanone, 51 μl water and 0.72 ml trimethylchlorosilane were added and the mixture was stirred overnight. The precipitated HCl adduct of 1-acetyl-3-cyclohexylamino-2-furan-2-yl-imidazo[1,2-a]pyridin-1-ium chloride was suction-filtered and dried under vacuum. 776 mg 1-acetyl-3-cyclohexylamino-2-furan-2-yl-imidazo[1,2-a]pyridin-1-ium chloride hydrochloride were obtained.

reactant | 5-methyl-2-aminopyridin | 6.1 mmol, 655 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | furan-2-carbaldehyde | 9.1 mmol, 0.75 ml, 874 mg | O1C(=CC=C1)C=O | C5H4O2
reactant | cyclohexylisonitrile | 7.0 mmol, 0.86 ml, 768 mg | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | perchloric acid | 0.59 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | acetyl chloride | 24.8 mmol, 1.8 ml, four equivalents | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 12 ml | CO | CH4O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 1-acetyl-3-cyclohexylamino-2-furan-2-yl-imidazo[1,2-a]pyridin-1-ium chloride hydrochloride | 776 mg | Cl.[Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC=C2)NC2CCCCC2)C=2OC=CC2 | InChI=1S/C19H22N3O2.2ClH/c1-14(23)22-17-11-5-6-12-21(17)19(18(22)16-10-7-13-24-16)20-15-8-3-2-4-9-15;;/h5-7,10-13,15,20H,2-4,8-9H2,1H3;2*1H/q+1;;/p-1
